US03997536
Preparation of 5-n-octyl-2-(4-cyanophenyl)-pyrimidine
1.84 G. of 4-(4-n-octylpyrimid-2-yl)-benzoic acid amide are maintained at reflux for 80 minutes in a mixture of 40 ml. of ethylene chloride and 0.63 ml. of phosphorus oxychloride with stirring. The mixture, diluted with ether, is washed with 2-N sodium hydroxide and then with water until neutral. The organic phase is dried over sodium sulfate and evaporated to give 1.91 g. of 5-n-octyl-2-(4-cyanophenyl)-pyrimidine which are distilled in a high vacuum; melting point 66.1°-66.5° C; clearing point 47.5° C.

reactant | 4-(4-n-octylpyrimid-2-yl)-benzoic acid amide | C(CCCCCCC)C1=NC(=NC=C1)C1=CC=C(C(=O)N)C=C1 | C19H25N3O
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | 5-n-octyl-2-(4-cyanophenyl)-pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C19H23N3
